US07777047B2
ethyl 7-amino-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate
A mixture of ethyl 5-[3-(methylsulfonyl)propoxy]-7-nitro-1H-indole-2-carboxylate (200 mg), 10% palladium-carbon (50% containing water, 100 mg) and tetrahydrofuran (20 mL) was subjected to catalytic reduction at room temperature under hydrogen atmosphere at normal pressure. The catalyst was filtered off, and the filtrate was concentrated. The obtained crystals were washed with hexane to give the title compound (140 mg, yield 78%) as pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give pale-yellow prism crystals. melting point 187-188° C.

reactant | ethyl 5-[3-(methylsulfonyl)propoxy]-7-nitro-1H-indole-2-carboxylate | 200 mg | CS(=O)(=O)CCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C15H18N2O7S
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 7-amino-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate | 140 mg, yield 78% | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCCS(=O)(=O)C | C15H20N2O5S
